US04383851
2-Amino-6-fluoropyridine-3-carboxylic acid
A solution of benzyl 2-amino-6-fluoropyridine-3-carboxylate (2.0 g, 0.008 mole) in ethanol (250 ml) containing 5 percent Palladium on charcoal was shaken in a hydrogen atmosphere (50 psi was the initial pressure) using a Paar apparatus. Hydrogen uptake ceased after 10-15 minutes. After purging the hydrogen from the system, the catalyst was removed by filtration, and the solvent evaporated to give 1.2 g (94 percent) of the desired acid. Recrystallization from water gave an analytical sample: m.p.=205-214 decompose.

reactant | benzyl 2-amino-6-fluoropyridine-3-carboxylate | 0.008 mole, 2.0 g | NC1=NC(=CC=C1C(=O)OCC1=CC=CC=C1)F | C13H11FN2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | [Pd] | Pd
product | 2-Amino-6-fluoropyridine-3-carboxylic acid | 1.2 g, 94 percent | NC1=NC(=CC=C1C(=O)O)F | C6H5FN2O2
